US06096771
(a) 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-5-fluoro-4-methylthio-1,2-benzisoxazole
To a solution of 3-(2-(N-t-butoxycarbonylamino)ethoxy)-5-fluoro-1,2-benzisoxazole (0.30 g) in tetrahydrofuran (20 ml) was added lithium diisopropylamide (1.50 ml, 1.5 M hexane solution) dropwise with stirring at -70° C. under nitrogen atmosphere, then after being stirred at the same temperature for 15 minutes dimethyldisulphide (0.21 g) was added. The reaction mixture was stirred for 15 minutes at -70° C. and then the temperature was raised to 0° C. The reaction mixture was poured into ice water (40 ml), extracted with ethyl acetate (twice each with 40 ml) and the combined extracts were dried over anhydrous magnesium sulphate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography with cyclohexane/ethyl acetate (9/1) as an eluent, to give the title compound (0.32 g, 94% yield) as a colorless powder.

reactant | 3-(2-(N-t-butoxycarbonylamino)ethoxy)-5-fluoro-1,2-benzisoxazole | 0.30 g | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C=C(C=C2)F | C14H17FN2O4
reactant | lithium diisopropylamide | 1.5 M, 1.50 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | dimethyldisulphide | 0.21 g | CSSC | C2H6S2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-5-fluoro-4-methylthio-1,2-benzisoxazole | 0.32 g, 94% yield | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C(=C(C=C2)F)SC | C15H19FN2O4S
